SimTest
*SPICE Netlist generated by Advanced Sim server on 6/7/2023 5:18:49 PM
.options MixedSimGenerated

*Schematic Netlist:
X* 0 Net*_1 Net*_2 Net*_5 0 0 Net*_12 Net*_5 Net*_9 Net*_12 Net*_4 Net*_10
+ epc23102
CC1 Net*_12 Net*_9 100n
CC2 0 NetC2_2 47u
CC3 0 Net*_4 100n
LL1 Net*_9 NetC2_2 2.2u
RR1 NetC2_2 0 10 TC1=0 TC2=0
VVDD Net*_5 0 5 AC 1 0
VVHS Net*_1 0 DC 3.3 PULSE(0 3.3 5u 1n 1n 250n 1u 0) AC 1 0
VVIN Net*_10 0 48 AC 1 0
VVLS Net*_2 0 DC 3.3 PULSE(0 3.3 5.26u 1n 1n 730n 1u 0) AC 1 0

.PROBE {V(NetC2_2)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(Net*_9)} =PLOT(1) =AXIS(1) =UNITS(V) =RGB(0, 255, 0)
.PROBE {V(Net*_2)} =PLOT(1) =AXIS(1) =UNITS(V) =RGB(0, 255, 255)
.PROBE {V(Net*_1)} =PLOT(1) =AXIS(1) =UNITS(V) =RGB(255, 0, 0)

.OPTIONS ABSTOL=RELTOL ITL1=1000 ITL2=1000 ITL4=100 ITL5=100000 VNTOL=RELTOL
.OPTIONS METHOD=GEAR MAXORD=6
*Selected Circuit Analyses:
.TRAN 10n 400u 0 10n

*Models and Subcircuits:
.SYNTAX LTSPICE
.subckt epc23102 ENb HSIN LSIN VDRV AGND PGND RBOOT RDRV SW VBOOT VDD VIN
XX1 N009 N011 N013 N014 AGND N007 N008 atlock
XX2 HSIN N011 N009 VDD AGND logictrans
XX3 LSIN N014 N013 VDD AGND logictrans
XX4 VDD AGND N017 por
XX5 N008 AGND N015 inv5
XX6 N015 N017 N016 AGND nor2
XU1 VIN HSG SW pwr_fet
XX9 LSG VDD AGND ls_scur
XX10 N008 N010 VDD AGND VBOOT cboot
E1 N002 SW N007 AGND 1
XX11 VBOOT SW N006 por
XX12 N002 SW N003 inv5
XX13 N003 N006 N004 SW nor2
XX16 HSG SW VBOOT hs_scur
XX18 Enb VDRV AGND VDD enb_logic
XX8 N010 N012 VDD AGND LSG ls_rf_ctrl
XX17 Enb SW VIN PGND vin_scur
XX19 N016 N010 AGND delay_ls
XX7 N004 N005 SW delay_hs
XX14 N005 N001 SW VBOOT HSG hs_rf_ctrl
XU2 SW LSG PGND pwr_fet
R1 PGND AGND 1e-6
D1 PGND SW well_diode
XX20 Enb RBOOT AGND N001 enb_logic_drivers
XX21 Enb RDRV AGND N012 enb_logic_drivers
.model well_diode D(RS=3.23 IS=4.15E-09 N=2.435 CJ0=3.43E-10 M=0.5 VJ=1.57
+ FC=0.5)
.ends epc23102
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt ls_scur LSG Vdd Vss
S2 N1 Vss N001 LSG S2_Model
S1 N001 N1 LSG N001 S1_Model
V1 N001 Vss 5
R1 Vdd Vss 500
R2 N1 Vss 424
F1 Vdd Vss V1 -1
C1 N1 Vss 3.8n
.MODEL S1_Model sw Ron=1 Roff=10MEG Vt=-2.5 Vh=0
.MODEL S2_Model sw Ron=1 Roff=10MEG Vt=2.5 Vh=0
.ends ls_scur
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt vin_scur ENb SW Vin Vss
R1 Vin SW 1Meg
S1 P001 Vin ENb Vss Enbsw
R3 P001 Vss 88k
.MODEL Enbsw sw Vt=3.3 Ron=1e-3 Roff=1e9
.ends vin_scur
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt atlock HSi HSib LSi LSib Vss HSo LSo
XX1 HSi N001 Vss delay_5n
XX2 LSi N002 Vss delay_5n
XX3 N002 HSib HSo Vss nor2
XX4 N001 LSib LSo Vss nor2
.ends atlock
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt pwr_fet drainin gate sourcein
.param W=0.932 Wg={W*1000000}
.param  si={aWg} so={aWg} sr={aWg}
.param  aWg={Wg*1E-3} A1={1.698e-02*aWg} k2=2.138e+00 k3=9.000e-02
+ rpara={1.74e-3/W}
+	rpara_s_factor=2.759e-01 aITc=3.6390e-03 arTc=-9.1547e-03 k2Tc=3.7300e-4
+	x0_0=2.269e+00 x0_0_TC=-1.6300e-03 x0_1=-2.000e-12 x0_1_TC=-8.5200e-7
+	dgs1=4.3e-07 dgs2=2.6e-13 dgs3=0.8 dgs4=0.23
+	ags1={1.188e-12*si}
+   ags2={4.370e-13*si} ags3=1.899e+00  ags4=2.039e-01
+	ags5={0.000e-00*si} ags6=7.480e+01  ags7=1.055e+01
+	agd1={1.940e-15*sr}
+   agd2={8.0e-14*sr}   agd3=-7.500e+00 agd4=2.157e+00
+	agd5={7.790e-15*sr} agd6=-1.726e+01 agd7=1.529e+01
+   agd8={0.000e-00*sr} agd9=-3.326e+01 agd10=8.900e-01
+	asd1={3.599e-13*so}
+   asd2={6.070e-13*so} asd3=-1.035e+01 asd4=1.086e+00
+	asd5={2.540e-13*so} asd6=-2.500e+01 asd7=5.616e+00
+   asd8={0.000e-00*so} asd9=-8.125e+01 asd10=5.665e+00
rd drainin drain {(1-rpara_s_factor)*rpara*(1-arTc*(Temp-25))}
rs sourcein source {rpara_s_factor*rpara*(1-arTc*(Temp-25))}
*Large resistors to aid convergence
rcsdconv drain source {100000Meg/aWg}
rcgsconv gate source {100000Meg/aWg}
rcgdconv gate drain {100000Meg/aWg}
bswitch drain source I=(if(v(drain,source)>0,
+	(A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(drain,source)/(1 +
+ (x0_0*(1-x0_0_TC*(Temp-25))+x0_1*(1-x0_1_TC*(Temp-25))*v(gate,source))*v(drain,source))
+ ),
+	(-A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(source,drain)/(1 +
+ (x0_0*(1-x0_0_TC*(Temp-25))+x0_1*(1-x0_1_TC*(Temp-25))*v(gate,drain))*v(source,drain))
+ ) ))
bgsdiode gate source I=(if( v(gate,source) < 10,
+	0.125*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1)),
+	0.125*aWg/1077*(dgs1*(exp((10)/dgs3)-1)+dgs2*(exp((10)/dgs4)-1)) ))
bgddiode gate drain I=(if( v(gate,drain) < 10,
+	0.125*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1)),
+	0.125*aWg/1077*(dgs1*(exp((10)/dgs3)-1)+dgs2*(exp((10)/dgs4)-1)) ))
cgs gate source {ags1}
cgsv gate source Q=(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
+	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)))
cgd gate drain {agd1}
cgdv gate drain Q=(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
+	agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+
+	agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+
+	agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10)))
csd source drain {asd1}
csdv source drain Q=(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
+	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7))+
+	asd8*asd10*log(1+exp((v(source,drain)-asd9)/asd10)))
.ends
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt logictrans In OutN OutP Vdd Vss
C1 In Vss 6p
R1 N001 N002 30.4k
R2 N002 Vss 6.5k
R3 N002 In 70
V1 N005 Vss 5
S1 Vss N003 N004 Vss S1_Model
R4 N004 N005 10k
R5 N003 N005 10k
E1 N001 Vss Vdd Vss 1
S2 Vss N004 N002 Vss S2_Model
E2 OutP Vss N003 Vss 1
E3 OutN Vss N004 Vss 1
.MODEL S1_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.MODEL S2_Model sw Ron=10 Roff=10MEG Vt=1.6 Vh=500m
.ends logictrans
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt nor2 A B Q Vss
S1 Vss N001 B Vss S1_Model
S2 Vss N001 A Vss S2_Model
V1 P001 Vss 5
R1 N001 P001 10k
E1 Q Vss N001 Vss 1
.MODEL S1_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.MODEL S2_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.ends nor2
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt por Vdd Vss POR
E1 POR Vss N002 Vss 1
S1 Vss N002 Vdd Vss S2_Model
V1 N001 Vss 5
R1 N001 N002 10k
.MODEL S2_Model sw  Vt=3.75 Vh=0.25 Ron=1 Roff=1e6
.ends por
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt inv5 A Vss Q
V1 N001 Vss 5
S1 Vss N002 A Vss S2_Model
R1 N001 N002 10k
E1 Q Vss N002 Vss 1
.MODEL S2_Model sw  Vt=2.5 Vh=0
.ends inv5
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt cboot A B Vdd Vss Vboot
S1 Vss N004 B Vss S1_Model
S2 N004 N003 A Vss S2_Model
S3 Vss N002 N003 Vss S3_Model
V1 N001 Vss 5
R4 N001 N003 10k
R5 N001 N002 10k
S4 Vboot Vdd N002 Vss S4_Model
.MODEL S1_Model sw Ron=5 Roff=10MEG Vt=2.5 Vh=0
.MODEL S2_Model sw Ron=5 Roff=10MEG Vt=2.5 Vh=0
.MODEL S3_Model sw Ron=5 Roff=10MEG Vt=2.5 Vh=0
.MODEL S4_Model sw Ron=12.5 Roff=10MEG Vt=2.5 Vh=0
.ends cboot
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt hs_scur HSG SW Vboot
F1 Vboot SW V1 -1
S2 SW N1 HSG SW S2_Model
S1 N1 N001 N001 HSG S1_Model
V1 N001 SW 5
R1 Vboot SW 833
C1 N1 SW 2.8n
.MODEL S1_Model sw Ron=2 Roff=10MEG Vt=2.5 Vh=0
.MODEL S2_Model sw Ron=2 Roff=10MEG Vt=2.5 Vh=0
.ends hs_scur
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt enb_logic ENb VDRV VSS VDD
R1 ENb VSS 150k
S2 VSS VDD ENb VSS Enbsw
S1 VDRV VDD VSS ENb Enbsw_nc
S3 N001 VDRV ENb VSS Enbsw
R2 N001 VSS 125k
.MODEL Enbsw_nc sw Vt=-3.3 Ron=1e-3 Roff=1e6
.MODEL Enbsw sw Vt=3.3 Ron=1e-3 Roff=1e6
.ends enb_logic
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt ls_rf_ctrl A RDRV Vdd Vss Q
C1 Vctrl Vss 4p
R2 Vctrl N002 1k
E1 RDRV Q Vdd Vctrl 1
E2 N001 Vss Vdd Vss 1
XX2 A N001 Vss N002 buffer
.ends ls_rf_ctrl
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt delay_ls A Q Vss
S2 Vss N003 N002 Vss S2_Model
S1 Vss N002 A Vss S1_Model
S3 Vss N004 N003 Vss S3_Model
S4 Vss N005 N004 Vss S4_Model
E1 Q Vss N005 Vss 1
C1 N002 Vss 1.3p
R2 N003 N001 10k
R1 N002 N001 10k
C2 N003 Vss 1.9p
V1 N001 Vss 5
R3 N001 N004 10k
R4 N001 N005 10k
.MODEL S2_Model sw Ron=10 Roff=10MEG Vt=3.16 Vh=0
.MODEL S1_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.MODEL S3_Model sw Ron=10 Roff=10MEG Vt=3.16 Vh=0
.MODEL S4_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.ends delay_ls
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt delay_hs A Q Vss
S2 Vss N003 N002 Vss S2_Model
S1 Vss N002 A Vss S1_Model
S3 Vss N004 N003 Vss S3_Model
S4 Vss N005 N004 Vss S4_Model
E1 Q Vss N005 Vss 1
C1 N002 Vss 1.3p
R2 N003 N001 10k
R1 N002 N001 10k
C2 N003 Vss 1.4p
V1 N001 Vss 5
R3 N001 N004 10k
R4 N001 N005 10k
.MODEL S2_Model sw Ron=10 Roff=10MEG Vt=3.16 Vh=0
.MODEL S1_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.MODEL S3_Model sw Ron=10 Roff=10MEG Vt=3.16 Vh=0
.MODEL S4_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.ends delay_hs
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt hs_rf_ctrl A RBOOT SW VBOOT Q
C1 Vctrl SW 10p
R1 Vctrl N002 1k
E1 RBOOT Q VBOOT Vctrl 1
E2 N001 SW VBOOT SW 1
XX1 A N001 SW N002 buffer
.ends hs_rf_ctrl
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt enb_logic_drivers ENb RDRV VSS RDRV_int
S2 VSS RDRV_int ENb VSS Enbsw
S1 RDRV RDRV_int VSS ENb Enbsw_nc
.MODEL Enbsw_nc sw Vt=-3.3 Ron=1e-3 Roff=1e6
.MODEL Enbsw sw Vt=3.3 Ron=1e-3 Roff=1e6
.ends enb_logic_drivers
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt delay_5n A Q Vss
S1 Vss N003 N002 Vss S1_Model
S2 Vss N002 A Vss S2_Model
S3 Vss N004 N003 Vss S3_Model
S4 Vss N005 N004 Vss S4_Model
E1 Q Vss N005 Vss 1
C1 N002 Vss 500f
R1 N003 N001 10k
R2 N002 N001 10k
C2 N003 Vss 500f
V1 N001 Vss 5
R3 N001 N004 10k
R4 N001 N005 10k
.MODEL S1_Model sw Ron=10 Roff=10MEG Vt=3.16 Vh=0
.MODEL S2_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.MODEL S3_Model sw Ron=10 Roff=10MEG Vt=3.16 Vh=0
.MODEL S4_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.ends delay_5n
.ENDSYNTAX

.SYNTAX LTSPICE
.subckt buffer A Vdd Vss Q
S1 Vss N001 A Vss S2_Model
S2 Vss Q N001 Vss S2_Model
S3 N001 Vdd Vdd A S2_Model
S4 Q Vdd Vdd N001 S2_Model
.MODEL S2_Model sw  Vt=2.5 Vh=0
.ends buffer
.ENDSYNTAX

.END