*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL7020-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL7020-102_freq port1 port2 PARAMS: Cpar=5.4pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=10
+ R2=0.0098
+ C= {Cpar}
+ K1=0.000175
+ K2=0.19
+ K3= {Ind}
+ K4=0.002
+ K5=0.000004
+ L=8.737E-07
+ Is=50.6587
+ a=0.5646
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1435.36591
.ends XAL7020-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL7020-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL7020-102_sat port1 port2 PARAMS: Cpar=5.339pF Ind=1uH
X1 port1 port2 Model1C PARAMS:
+ R1=10
+ R2=0.0098
+ C= {Cpar}
+ K1=0.000175
+ K2=0.19
+ K3= {Ind}
+ K4=0.002
+ K5=0.000004
+ L=8.737E-07
+ Is=50.6587
+ a=0.5646
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1435.36591
.ends XAL7020-102_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL7020-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL7020-122_freq port1 port2 PARAMS: Cpar=4.7pF Ind=1.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=15
+ R2=0.0115
+ C= {Cpar}
+ K1=0.000185
+ K2=0.19
+ K3= {Ind}
+ K4=0.004
+ K5=0.000005
+ L=1.1082E-06
+ Is=53.3702
+ a=0.5418
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1417.00519
.ends XAL7020-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL7020-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL7020-122_sat port1 port2 PARAMS: Cpar=4.609pF Ind=1.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=15
+ R2=0.0115
+ C= {Cpar}
+ K1=0.000185
+ K2=0.19
+ K3= {Ind}
+ K4=0.004
+ K5=0.000005
+ L=1.1082E-06
+ Is=53.3702
+ a=0.5418
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1417.00519
.ends XAL7020-122_sat
